US20010011085A1
Benzoic Acid (6R,7S)-2-tert-butylsulfanylcarbonyl-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo [4.2.0]oct-2-en-4-yl Ester (Compound 8).
1,5-Diazabicyclo[4,3,0]non-5-ene (50 μl) in acetonitrile (0.5 ml) was added dropwise to a solution of benzoyl peroxide (80 mg) and (6R,7S)-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1aza-bicyclo[4.2.0]oct-2-ene-2-carbothioic acid S-tert-butyl ester (100 mg) in acetonitrile (2.5 ml), while keeping the temperature of the reaction mixture under 30° C. After stirring for 30 minutes at room temperature, the reaction mixture was partitioned between EtOAc and 1% hydrochloric acid. The upper phase was sequentially washed with water, aqueous NaHCO3 and brine. Following chromatographic purification, the title product was obtained as a waxy solid.

reactant | 1,5-Diazabicyclo[4,3,0]non-5-ene | 50 μl | N12CCCN=C2CCC1 | C7H12N2
reactant | benzoyl peroxide | 80 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | (6R,7S)-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1aza-bicyclo[4.2.0]oct-2-ene-2-carbothioic acid S-tert-butyl ester | 100 mg | C(C)(C)(C)SC(=O)C=1N2C([C@@H]([C@H]2S(CC1C)(=O)=O)OC)=O | C13H19NO5S2
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | Benzoic Acid (6R,7S)-2-tert-butylsulfanylcarbonyl-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo [4.2.0]oct-2-en-4-yl Ester | C(C)(C)(C)SC(=O)C=1N2C([C@@H]([C@H]2S(C(C1C)OC(C1=CC=CC=C1)=O)(=O)=O)OC)=O | C20H23NO7S2
